US07449467B2
N-((1R,3S)-3-Isopropyl-3-{[5-(trifluoromethyl)-3′,6′-dihydro-3,4′-bipyridin-1′(2′H)-yl]carbonyl}cyclopentyl)-3-methyltetrahydro-2H-pyran-4-amine
To a solution of (1R,3S)-3-isopropyl-3-{[5-(trifluoromethyl)-3′,6′-dihydro-3,4′-bipyridin-1′(2′H)-yl]carbonyl}cyclopentanamine (9.0 mg, 0.024 mmol), 3-methyltetrahydro-4H-pyran-4-one (8.1 mg, 0.071 mmol) and triethylamine (0.0066 mL, 0.047 mmol) in dry methylene chloride (2.0 mL) was added sodium triacetoxyborohydride (15.0 mg, 0.071 mmol). After being stirred at room temperature overnight, the reaction was quenched with aqueous NaHCO3 and diluted with methylene chloride. The organic layer was separated and the aqueous layer was extracted with methylene chloride three times. The organic layers were combined, dried over MgSO4, filtered and evaporated under reduced pressure. The crude product was purified by silica gel column (30:70 MeOH/EtOAc) to provide pure product. MS calculated for C26H36F3N3O2: (M+H) 480; found 480.1.

reactant | (1R,3S)-3-isopropyl-3-{[5-(trifluoromethyl)-3′,6′-dihydro-3,4′-bipyridin-1′(2′H)-yl]carbonyl}cyclopentanamine | 0.024 mmol, 9.0 mg | C(C)(C)[C@]1(C[C@@H](CC1)N)C(=O)N1CCC(=CC1)C=1C=NC=C(C1)C(F)(F)F | C20H26F3N3O
reactant | 3-methyltetrahydro-4H-pyran-4-one | 0.071 mmol, 8.1 mg | CC1COCCC1=O | C6H10O2
reactant | triethylamine | 0.047 mmol, 0.0066 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.071 mmol, 15.0 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | N-((1R,3S)-3-Isopropyl-3-{[5-(trifluoromethyl)-3′,6′-dihydro-3,4′-bipyridin-1′(2′H)-yl]carbonyl}cyclopentyl)-3-methyltetrahydro-2H-pyran-4-amine | C(C)(C)[C@]1(C[C@@H](CC1)NC1C(COCC1)C)C(=O)N1CCC(=CC1)C=1C=NC=C(C1)C(F)(F)F | C26H36F3N3O2
